US09328096B2
N-((1H-1,2,3-triazol-4-yl)methylene)-2-methylpropane-2-sulfinamide
1H-1,2,3-triazole-4-carbaldehyde (1 g, 10.3 mmol) and 2-methylpropane-2-sulfinamide (1.25 g, 10.3 mmol) were dissolved in tetrahydrofuran (20 mL). Titanium tetraisopropoxide (3.1 mL, 10.5 mmol) was added and the reaction heated at reflux for 8 hours. After cooling to room temperature, the reaction was quenched by adding saturated aqueous sodium chloride solution (5 mL) followed by dilution with tetrahydrofuran (80 mL) and stirred for 30 minutes. The mixture was filtered through a pad of Arbocel and the filtrate concentrated in vacuo, azeotroping with THF to afford the title compound (2.02 g, 98%).

reactant | 1H-1,2,3-triazole-4-carbaldehyde | 10.3 mmol, 1 g | N1N=NC(=C1)C=O | C3H3N3O
reactant | 2-methylpropane-2-sulfinamide | 10.3 mmol, 1.25 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | Titanium tetraisopropoxide | 10.5 mmol, 3.1 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | N-((1H-1,2,3-triazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 2.02 g, 98% | N1N=NC(=C1)C=NS(=O)C(C)(C)C | C7H12N4OS
